US05591752
2-(4-Acetoxyphenoxy)methyl-2-cyanobenzoic acid
Under ice cooling and stirring, 5.5 ml of acetic anhydride was added to 5.2 g of 4-cyano-2-(4-hydroxyphenoxy)methylbenzoic acid obtained in Reference example 23 dissolved in 15.6 ml of pyridine and the mixture was stirred at the same temperature for 1.5 hours. Water was added to the reaction mixture and the mixture was adjusted to about pH 2 with conc. hydrochloric acid and extracted with ethyl acetate. Then, the organic layer was washed with a saturated saline solution, 1N-hydrochloric acid and further a saturated saline solution and then dried over anhydrous sodium sulfate. The solvent was removed to obtain 5.36 g of a crude product of the title compound.

reactant | acetic anhydride | 5.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 4-cyano-2-(4-hydroxyphenoxy)methylbenzoic acid | 5.2 g | C(#N)C1=CC(=C(C(=O)O)C=C1)COC1=CC=C(C=C1)O | C15H11NO4
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
reactant | pyridine | 15.6 ml | N1=CC=CC=C1 | C5H5N
product | 2-(4-Acetoxyphenoxy)methyl-2-cyanobenzoic acid | 5.36 g | C(C)(=O)OC1=CC=C(OCC2(C(C(=O)O)C=CC=C2)C#N)C=C1 | C17H15NO5
